US07635715B2
Step G: Preparation of N-((6-Chloro-1-ethyl-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycine
A mixture of 1,1-dimethylethyl N-((6-chloro-1-ethyl-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate (0.4 g, 1 mmol) in 3 mL TFA was stirred at room temperature for 30 minutes, M+1=338, M−1=336. The mixture was concentrated in vacuo and the residue was sonicated in 10 mL heptane. The solid was filtered, washed with 10 mL heptane, and dried under high vacuum to give 0.27 g of the title compound as an off-white solid. MS (m/z)=338 (M+H)+. Calculated for C16H16ClNO5 337.07.

reactant | 1,1-dimethylethyl N-((6-chloro-1-ethyl-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 1 mmol, 0.4 g | ClC=1C=C2C(=C(C(C(C2=CC1)(C)CC)=O)C(=O)NCC(=O)OC(C)(C)C)O | C20H24ClNO5
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((6-Chloro-1-ethyl-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycine | 0.27 g | ClC=1C=C2C(=C(C(C(C2=CC1)(C)CC)=O)C(=O)NCC(=O)O)O | C16H16ClNO5
